US07897609B2
A modification of the method described in Part B of the preparation of 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol was used to reduce tert-butyl 2-[(7-bromo-3-nitro[1,5]naphthyridin-4-yl)amino]-1,1-dimethylethylcarbamate (138.0 g, 313.4 mmol). The reaction was placed under hydrogen pressure for 5.5 hours. The reaction yielded 128 g of tert-butyl 2-[(3-amino-7-bromo[1,5]naphthyridin-4-yl)amino]-1,1-dimethylethylcarbamate containing some acetonitrile.

reactant | 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)Br | C16H20BrN5O2
reactant | tert-butyl 2-[(7-bromo-3-nitro[1,5]naphthyridin-4-yl)amino]-1,1-dimethylethylcarbamate | 313.4 mmol, 138.0 g | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)(C)NC(OC(C)(C)C)=O | C17H22BrN5O4
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-butyl 2-[(3-amino-7-bromo[1,5]naphthyridin-4-yl)amino]-1,1-dimethylethylcarbamate | 128 g | NC=1C=NC2=CC(=CN=C2C1NCC(C)(C)NC(OC(C)(C)C)=O)Br | C17H24BrN5O2
